US06008230
A mixture of 8-(2,6-dichlorobenzoylamino)-4-(2,6-dichlorobenzoyloxy)quinazoline (40 mg) and imidazole (53.7 mg) in 1,3-dimethyl-2-imidazolidinone (0.6 ml) was stirred for 1 hour at ambient temperature. Cold water was added to the mixture, and the resulting precipitates were collected by filtration to give 8-(2,6-dichlorobenzoylamino)-1,4-dihydro-4-oxoquinazoline (23 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-4-(2,6-dichlorobenzoyloxy)quinazoline | 40 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=NC=NC23)OC(C2=C(C=CC=C2Cl)Cl)=O)C(=CC=C1)Cl | C22H11Cl4N3O3
reactant | imidazole | 53.7 mg | N1C=NC=C1 | C3H4N2
reactant | water | O | H2O
solvent | 1,3-dimethyl-2-imidazolidinone | 0.6 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 8-(2,6-dichlorobenzoylamino)-1,4-dihydro-4-oxoquinazoline | 23 mg | ClC1=C(C(=O)NC=2C=CC=C3C(N=CNC23)=O)C(=CC=C1)Cl | C15H9Cl2N3O2
